US05624948
To a solution of lithium diisopropylamide (0.1 mol/l solution in tetrahydrofuran, 15 ml) was added a solution of 1-(2-t-butyldimethylsiloxyethyl)-4-(2-methoxycarbonylpropyl)benzene (0.62 g) in tetrahydrofuran (2 ml) at -78° C., and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added a solution of iodomethane (0.20 g) in tetrahydrofuran (2 ml), and the mixture was stirred at room temperature for 4 hours. To the reaction mixture was added water, and the mixture was extracted with diethyl ether. The extract was washed with water, and dried over anhydrous MgSO4. The solvent was removed under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on a silica gel column using a mixture of n-hexane and methylene chloride (3:1) as eluent to give 1-(2-t-butyldimethylsiloxyethyl)-4-(2-methoxycarbonyl-2-methylpropyl)benzene (0.49 g) as an oily liquid. To a solution of 1-(2-t-butyldimethylsiloxyethyl)-4-(2-methoxycarbonyl-2-methylpropyl)benzene (0.49 g) in tetrahydrofuran (1.5 ml) was added tetra-n-butylammonium fluoride (1 mol/l solution in tetrahydrofuran, 1.34 ml), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added water, and the mixture was extracted with diethyl ether. The extract was washed with water, and dried over anhydrous MgSO4. The solvent was removed under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on a silica gel column using a mixture of methylene chloride and diethyl ether (7:1) as eluent to give 2-[4-(2-methoxycarbonyl-2-methylpropyl)phenyl]ethyl alcohol (0.300 g) as an oily liquid. To a solution of 2-[4-(2-methoxycarbonyl-2-methylpropyl)phenyl]ethyl alcohol (0.300 g) in methylene chloride (3 ml) were added carbon tetrabromide (0.48 g) and triphenylphosphine (0.38 g), and the mixture was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on a silica gel column using a mixture of n-hexane and methylene chloride (3:1) as eluent to give 2-[4-(2-methoxycarbonyl-2-methylpropyl)phenyl]ethyl bromide (0.323 g) as an oily liquid.

reactant | 1-(2-t-butyldimethylsiloxyethyl)-4-(2-methoxycarbonyl-2-methylpropyl)benzene | 0.49 g | O([Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)CC(C)(C)C(=O)OC | C20H34O3Si
reactant | tetra-n-butylammonium fluoride | 1 mol/l, 1.34 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 2-[4-(2-methoxycarbonyl-2-methylpropyl)phenyl]ethyl alcohol | 0.300 g | COC(=O)C(CC1=CC=C(C=C1)CCO)(C)C | C14H20O3
